US04478749
(B) (S)-P-[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]-N-propylphosphonoamidic acid, anilinium salt
(S)-P-[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]-N-propylphosphonamidic acid, methyl ester, potassium salt (3.0 g) was dissolved in distilled dichloromethane (30 ml) and cooled to 0°-5° C. in an ice-bath under a nitrogen atmosphere. Bis(trimethylsilyl)acetamide (6.88 g) was added and the mixture stirred at 0° C. for 0.5 hour. Trimethylsilylbromide (3.9 g) was added and the mixture stirred for 3 hours at 0° to 5° C. The solvent and excess bis(trimethylsilyl)acetamide and trimethylsilylbromide were removed in vacuo. The oil was taken up in three 20 ml portions of dry toluene and the toluene was removed in vacuo yielding a pale residue. The residue was dissolved in dry tetrahydrofuran (50 ml) and 2 equivalents of distilled aniline (1.57 g) in absolute ethanol (15 ml) was added; the mixture was stirred at room temperature for 0.5 hour. The solvents were removed in vacuo yielding an oily residue which was dissolved in acetonitrile (100 ml) by heating to 80° C. The hot acetonitrile solution was filtered and stored in the freezer overnight (-10° C.). The title compound crystallized yielding 2.65 g of material, melting point 186°-190° C., dec.

reactant | (S)-P-[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]-N-propylphosphonamidic acid, methyl ester | C1(=CC=CC=C1)COC(=O)NC1C(N(C1)[P@](OC)(=O)NCCC)=O | C15H22N3O5P
reactant | potassium | 3.0 g | [K] | K
reactant | Bis(trimethylsilyl)acetamide | 6.88 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | Trimethylsilylbromide | 3.9 g | C[Si](C)(C)Br | C3H9BrSi
reactant | aniline | 1.57 g, 2 equivalents | NC1=CC=CC=C1 | C6H7N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (S)-P-[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]-N-propylphosphonoamidic acid, anilinium salt | 2.65 g | [NH3+]C1=CC=CC=C1.C1(=CC=CC=C1)COC(=O)N[C@@H]1C(N(C1)P([O-])(=O)NCCC)=O | InChI=1S/C14H20N3O5P.C6H7N/c1-2-8-15-23(20,21)17-9-12(13(17)18)16-14(19)22-10-11-6-4-3-5-7-11;7-6-4-2-1-3-5-6/h3-7,12H,2,8-10H2,1H3,(H,16,19)(H2,15,20,21);1-5H,7H2/t12-;/m0./s1
